US04438128
1-(3,4-Dimethoxyphenoxy)-3-[2-(1,3,5-trimethylpyrimidine-2,4-dion-6-ylamino)-ethylamino]-propan-2-ol
4.2 g. 3,4-Dimethoxyphenyl glycidyl ether and 8.5 g. 4-(2-aminoethylamino)-1,3,5-trimethylpyrimidine-2,6(1H,3H)-dione in 5 ml. dimethylformamide are left to stand for 48 hours at ambient temperature. The reaction mixture is then dissolved in methylene chloride, shaken out five times with water and the organic phase is extracted with 1 N acetic acid. The aqueous phase is rendered alkaline by the addition of dilute aqueous sodium hydroxide solution and then extracted with methylene chloride. After drying the extract, the solution is chromatographed over silica gel using, as elution agent, methylene chloride-methanol-ammoniacal methanol (saturated) (20.1:1 v/v/v). After evaporating the pure fractions, the residue obtained is recrystallized from ethyl acetate. There are obtained 2.0 g. (24% of theory) of the desired product in the form of colorless crystals; m.p. 103°-104° C.

reactant | 3,4-Dimethoxyphenyl glycidyl ether | C(C1CO1)OC1=CC(=C(C=C1)OC)OC | C11H14O4
reactant | 4-(2-aminoethylamino)-1,3,5-trimethylpyrimidine-2,6(1H,3H)-dione | NCCNC=1N(C(N(C(C1C)=O)C)=O)C | C9H16N4O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(3,4-Dimethoxyphenoxy)-3-[2-(1,3,5-trimethylpyrimidine-2,4-dion-6-ylamino)-ethylamino]-propan-2-ol | COC=1C=C(OCC(CNCCNC2=C(C(N(C(N2C)=O)C)=O)C)O)C=CC1OC | C20H30N4O6
